US04061656
8.6 G. (0.107 mol) of formalin and 90 ml. of concentrated hydrochloric acid were added to a solution of 10.87 g. (0.065 mol) of 2-methyl-3,5-dichlorothiophene in 45 ml. of acetic acid. The resulting mixture was heated to 70° C. for 18 hrs., cooled, poured into ice water and extracted with ether. The organic solution was washed with water, sodium bicarbonate and water, dried and evaporated to yield 3-chloromethyl-2,4-dichloro-5-methylthiophene as a crude oil.

reactant | formalin | 0.107 mol | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | 2-methyl-3,5-dichlorothiophene | 0.065 mol | CC=1SC(=CC1Cl)Cl | C5H4Cl2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3-chloromethyl-2,4-dichloro-5-methylthiophene | ClCC1=C(SC(=C1Cl)C)Cl | C6H5Cl3S
